US04424351
3-Octyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride is reacted with acetic anhydride as described in Example 1, and the resulting salt is treated with a solution of sodium hydrocarbonate to obtain 3-octyl-1-acetyl-1,2-dihydropyrido[3,4-e]-as-triazine with a yield of 75%. This compound is reacted with an equimolar amount of fumaric acid in ethanol to obtain the hydrogen fumarate melting at 285°-287° C.

reactant | 3-Octyl-1,2-dihydropyrido[3,4-e]-as-triazine hydrochloride | Cl.C(CCCCCCC)C=1NNC2=C(N1)C=NC=C2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydrocarbonate | C(=O)(O)[O-].[Na+]
product | 3-octyl-1-acetyl-1,2-dihydropyrido[3,4-e]-as-triazine | yield of 75% | C(CCCCCCC)C=1NN(C2=C(N1)C=NC=C2)C(C)=O | C16H24N4O
